US08486996B2
5-Methoxy-2-(2-fluoro-3-pyridylcarbonyl)-benzofuran
At 0° C. a solution of n-BuLi (0.73 ml, 1.17 mmol) is added to diisopropylamine (0.18 ml, 1.3 mmol). The mixture is stirred for 30 minutes at the same temperature before the resulting solution is added dropwise to a solution 2-fluoropyridine (0.1 ml, 1.17 mmol) in THF (3 ml) at −78° C. After stirring for one hour ethyl 5-methoxy-benzofuran-2-carboxylate (0.25 g, 1.17 mmol) in THF (4 ml) is added and stirring is continued for 2 hours at the same temperature. The reaction mixture is allowed to reach room temperature before quenching with saturated aqueous ammonium chloride solution. The product is extracted with ethyl acetate. Chromatography on silicagel gives the title compound, m.p. 130-134° C.

reactant | n-BuLi | 1.17 mmol, 0.73 ml | [Li]CCCC
reactant | diisopropylamine | 1.3 mmol, 0.18 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-fluoropyridine | 1.17 mmol, 0.1 ml | FC1=NC=CC=C1 | C5H4FN
reactant | ethyl 5-methoxy-benzofuran-2-carboxylate | 1.17 mmol, 0.25 g | COC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C12H12O4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 5-Methoxy-2-(2-fluoro-3-pyridylcarbonyl)-benzofuran | COC=1C=CC2=C(C=C(O2)C(=O)C=2C(=NC=CC2)F)C1 | C15H10FNO3
